data/mechanism_extracts/OrgChemFront/10.1039_d0qo00300j.json
{"doi": "10.1039_d0qo00300j", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical tandem thiocyanation/cyclization of N-allylthioamides with NH4SCN to afford thiocyanato-substituted thiazolines (and thiazines from cyclic substrates)", "mechanism_family": ["mediator_anodic", "cation_initiated", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of SCN- to (SCN)2, which acts as an electrophilic thiocyanating mediator toward the alkene; cathode reduces protons to H2", "key_intermediates": [{"name": "thiocyanogen (SCN)2 generated by anodic oxidation of SCN-", "smiles": "N#CSSC#N", "role": "reactive"}, {"name": "thiiranium/sulfonium intermediate A from (SCN)2 addition to alkene of N-allylthioamide", "smiles": null, "role": "reactive"}, {"name": "thiazoline product 3 (or thiazine 4 from cyclic alkene) after intramolecular nucleophilic ring-opening by thioamide sulfur and deprotonation", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes two SCN- to (SCN)2 with loss of 2 e-; (SCN)2 adds to the alkene of the N-allylthioamide to form a cyclic sulfonium intermediate A bearing a pendant SCN; the thioamide sulfur opens A intramolecularly and loss of a proton gives the thiazoline (or thiazine), while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction not inhibited; 3a still formed in 68% yield"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction not inhibited; 3a obtained in 57% yield"}, {"name": "cyclopropyl-substituted allylthioamide 1ag (radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "Product 3ag obtained in 72% yield with cyclopropyl group intact, excluding a thiyl radical intermediate on the substrate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "radical_clock", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "CV showed oxidation peaks for 1a at 1.67 V and for NH4SCN at 1.15 V, indicating SCN- is preferentially oxidized at the anode—supporting a (SCN)2-mediator pathway rather than direct substrate oxidation. The lack of TEMPO/BHT inhibition and the retention of the cyclopropyl ring in the radical-clock experiment argue against a free thiyl/N-centered radical pathway on the substrate, favoring the polar (SCN)2/sulfonium mechanism shown in Scheme 4."}
